### ISSUE TITLE
[Infrastructure] Proof automation library expansion and optimization

### ISSUE THREAD

**Issue by Th0rgal** [Th0rgal/verity#79]
## Summary
Expand and optimize the proof automation library (`Automation.lean`) to accelerate proof development and reduce boilerplate across all contracts.

## Motivation
**Current State** (`DumbContracts/Proofs/Stdlib/Automation.lean`):
- ~15 core lemmas
- Safe arithmetic (safeAdd, safeSub)
- Storage operations
- Contract result helpers

**Gaps**:
- No mapping operation lemmas
- Limited control flow lemmas
- No authorization pattern lemmas
- No event emission helpers
- No composition lemmas for complex operations

**Impact of Gaps**:
- Repeated proof patterns across contracts
- Slower proof development
- Copy-paste errors
- Maintenance burden

### Category 1: Mapping Operations (NEW)

```lean
-- File: DumbContracts/Proofs/Stdlib/MappingAutomation.lean

/-- Getting from mapping preserves state -/
@[simp] theorem getMapping_runState (slot : Nat) (key : Address) :
    (getMapping slot key).runState s = s

/-- Setting mapping updates only that key -/
theorem setMapping_updates_key (slot : Nat) (key : Address) (value : Uint256) :
    let s' := (setMapping slot key value).runState s
    s'.mappings slot key = value

/-- Setting mapping preserves other keys -/
theorem setMapping_preserves_others (slot : Nat) (key key' : Address) (value : Uint256) :
    key ≠ key' →
    let s' := (setMapping slot key value).runState s
    s'.mappings slot key' = s.mappings slot key'

/-- Mapping operations preserve storage -/
@[simp] theorem setMapping_preserves_storage :
    (setMapping slot key value).runState s
    |>.storage = s.storage
```

### Category 2: Control Flow (NEW)

```lean
-- File: DumbContracts/Proofs/Stdlib/ControlFlowAutomation.lean

/-- Successful if-branch execution -/
theorem if_true_branch (cond : Bool) (thenBranch elseBranch : Contract α) :
    cond = true →
    (if cond then thenBranch else elseBranch) = thenBranch

/-- Failed if-branch execution -/
theorem if_false_branch (cond : Bool) (thenBranch elseBranch : Contract α) :
    cond = false →
    (if cond then thenBranch else elseBranch) = elseBranch

/-- Switch statement exhaustiveness -/
theorem switch_exhaustive (value : Uint256) (cases : List (Uint256 × Contract α)) :
    (∃ case ∈ cases, case.1 = value) ∨ useDefault

/-- Loop invariant preservation -/
theorem for_loop_invariant (inv : ContractState → Prop) :
    (∀ i, inv (loopBody i).runState s) →
    inv (for_loop n loopBody).runState s
```

### Category 3: Authorization Patterns (NEW)

```lean
-- File: DumbContracts/Proofs/Stdlib/AuthorizationAutomation.lean

/-- OnlyOwner succeeds when sender is owner -/
theorem onlyOwner_succeeds (h : s.owner = s.sender) :
    (onlyOwner >> action).isSuccess = action.isSuccess

/-- OnlyOwner fails when sender is not owner -/
theorem onlyOwner_fails (h : s.owner ≠ s.sender) :
    (onlyOwner >> action).isSuccess = false

/-- RequireAuth pattern -/
theorem requireAuth_succeeds (authorized : Address → Bool) :
    authorized s.sender = true →
    (requireAuth authorized >> action).isSuccess = action.isSuccess

/-- Multiple role authorization -/
theorem requireRole_succeeds (roles : Address → Set Role) (required : Role) :
    required ∈ roles s.sender →
    (requireRole required >> action).isSuccess = action.isSuccess
```

### Category 4: Arithmetic Composition (ENHANCED)

```lean
-- Extend existing arithmetic automation

/-- SafeAdd associativity -/
theorem safeAdd_assoc (a b c : Uint256) :
    safeAdd a (safeAdd b c) = safeAdd (safeAdd a b) c

/-- SafeSub anti-monotonicity -/
theorem safeSub_antimonotone (a b c : Uint256) :
    b ≤ c → safeSub a c ≤ safeSub a b

/-- Arithmetic cancellation -/
theorem add_sub_cancel (a b : Uint256) :
    (a + b) - b = a  -- modulo overflow

/-- Bounded arithmetic -/
theorem safeAdd_bounded (a b : Uint256) (h : safeAdd a b = some c) :
    c ≤ MAX_UINT256
```

### Category 5: Event Emission (NEW)

```lean
-- File: DumbContracts/Proofs/Stdlib/EventAutomation.lean

/-- Event emission preserves state -/
@[simp] theorem emitEvent_preserves_state (event : Event) :
    (emitEvent event).runState s = s

/-- Event emission succeeds -/
@[simp] theorem emitEvent_succeeds (event : Event) :
    (emitEvent event).isSuccess = true

/-- Multiple events accumulate -/
theorem emit_multiple_events (e1 e2 : Event) :
    (emitEvent e1 >> emitEvent e2).events = [e1, e2]
```

### Category 6: State Composition (NEW)

```lean
-- File: DumbContracts/Proofs/Stdlib/CompositionAutomation.lean

/-- Sequential operations preserve properties -/
theorem seq_preserves_property (P : ContractState → Prop) :
    P s →
    (∀ s', P s' → P (op2.runState s')) →
    P ((op1 >> op2).runState s)

/-- Bind associativity -/
theorem bind_assoc (m1 : Contract α) (f : α → Contract β) (g : β → Contract γ) :
    (m1 >>= f >>= g) = (m1 >>= fun a => f a >>= g)

/-- State update idempotence -/
theorem update_idempotent (f : ContractState → ContractState) :
    f (f s) = f s →
    (updateState f >> updateState f) = updateState f
```

### Category 7: Finite Set Reasoning (NEW)

```lean
-- File: DumbContracts/Proofs/Stdlib/FiniteSetAutomation.lean

/-- Insert preserves membership -/
theorem insert_preserves_member {a : α} {s : FiniteSet α} :
    a ∈ s.insert a

/-- Insert preserves others -/
theorem insert_preserves_others {a b : α} {s : FiniteSet α} :
    a ≠ b → (b ∈ s ↔ b ∈ s.insert a)

/-- Sum over finite set with update -/
theorem sum_update_existing {f : α → Nat} :
    a ∈ s →
    s.sum (fun x => if x = a then f a + 1 else f x) = s.sum f + 1
```

## Optimization: Tactic Development

**Create custom tactics** for common patterns:

```lean
-- File: DumbContracts/Proofs/Stdlib/Tactics.lean

/-- Solve storage preservation goals automatically -/
syntax "solve_storage_preservation" : tactic

macro_rules
  | `(tactic| solve_storage_preservation) =>
    `(tactic| 
      unfold runState
      simp [setStorage, getStorage]
      ext slot
      by_cases h : slot = targetSlot
      · simp [h]
      · simp [h])

/-- Solve authorization goals -/
syntax "solve_authorization" : tactic

/-- Solve safe arithmetic goals -/
syntax "solve_safe_arithmetic" : tactic
```

## Benefits
✅ Accelerates proof development (30-50% faster)
✅ Reduces boilerplate
✅ Consistent proof style
✅ Easier maintenance
✅ Reusable across contracts
✅ Enables rapid prototyping

### Phase 1: Core Extensions (1 week)
- Mapping operations
- Control flow helpers
- Authorization patterns

### Phase 2: Advanced Automation (1 week)
- Arithmetic composition
- Event emission
- State composition

### Phase 3: Finite Set Reasoning (3 days)
- Set operations
- Sum properties
- Membership proofs

### Phase 4: Custom Tactics (1 week)
- Storage preservation tactic
- Authorization tactic
- Arithmetic tactic

### Phase 5: Documentation & Testing (2 days)
- Document all lemmas
- Add examples
- Performance benchmarks

## Files Affected
**Extend**:
- `DumbContracts/Proofs/Stdlib/Automation.lean`

**Create**:
- `DumbContracts/Proofs/Stdlib/MappingAutomation.lean`
- `DumbContracts/Proofs/Stdlib/ControlFlowAutomation.lean`
- `DumbContracts/Proofs/Stdlib/AuthorizationAutomation.lean`
- `DumbContracts/Proofs/Stdlib/EventAutomation.lean`
- `DumbContracts/Proofs/Stdlib/CompositionAutomation.lean`
- `DumbContracts/Proofs/Stdlib/FiniteSetAutomation.lean`
- `DumbContracts/Proofs/Stdlib/Tactics.lean`

## Estimated Effort
3-4 weeks

## Success Criteria
- [ ] 50+ new automation lemmas
- [ ] Custom tactics working
- [ ] 30%+ proof development speedup
- [ ] All contracts use automation
- [ ] Documentation complete

## Related Issues
- Accelerates #65, #69, #73, #78 (contract proofs)
- Complements #70 (proof debugging guide)
- Enables #66 (first contract tutorial)

## Future Work
- Machine learning for tactic suggestion
- Proof search automation
- SMT solver integration

**Comment by Th0rgal** [comment]
## Review Findings

### 1. Wrong File Paths
`DumbContracts/Proofs/Stdlib/Automation.lean` → **`Verity/Proofs/Stdlib/Automation.lean`**
All proposed new file paths under `DumbContracts/` should use `Verity/`.

### 2. Current Automation Library is Larger Than Described
The issue says "approximately 15 core lemmas." The actual `Verity/Proofs/Stdlib/Automation.lean` contains the `addressToNat_injective` axiom plus extensive helper lemmas. The `Verity/Proofs/Stdlib/Math.lean` file has 25 proven theorems. Combined, the stdlib is more substantial than "~15 core lemmas."

### 3. The Issue is Otherwise Reasonable
The gap analysis (no mapping operation lemmas, no authorization pattern lemmas, no composition lemmas) is accurate and the proposed categories make sense for the codebase's evolution.

**Comment by Th0rgal** [comment]
## Analysis Update (automated codebase review)

Significant progress has been made on proof automation since this issue was opened:

### What exists now
- **`Verity/Proofs/Stdlib/Automation.lean`** — 609 lines of proof automation tactics and lemmas
- **`Verity/Proofs/Stdlib/Math.lean`** — 329 lines of mathematical automation (modular arithmetic, overflow/underflow)
- **`Verity/Proofs/Stdlib/State.lean`** — State manipulation lemmas and simplification rules
- **`Verity/Proofs/Stdlib/Blockchain.lean`** — Blockchain-specific automation
- **`Verity/Proofs/Stdlib/SpecInterpreter.lean`** — 632 lines including `execStmtsFuel` with fuel-based execution

### Impact
The automation is actively used across all 7 contract proof files in `Compiler/Proofs/SpecCorrectness/`, enabling 305 fully proven theorems with 0 `sorry`.

### Recommendation
This issue should be **updated to reflect current status** — the core automation library is substantial. Remaining work could focus on:
- Reducing proof verbosity for new contracts (current proofs can be lengthy)
- Automating the `edslToSpecStorage` bridge pattern
- Decision procedures for storage slot disjointness (relevant to #84)

**Comment by Th0rgal** [comment]
## Status Update (2026-02-18)

This issue has significant outdated content. Key updates:

### Path Renames
All `DumbContracts/` paths → `Verity/`. The project was renamed. Files are now at:
- `Verity/Proofs/Stdlib/Automation.lean`
- `Verity/Proofs/Stdlib/MappingAutomation.lean` (already exists!)
- `Verity/Proofs/Stdlib/ListSum.lean` (new, PR #378)

### Partially Implemented Categories

**Category 1 (Mapping Operations) — DONE.** `MappingAutomation.lean` exists with all proposed lemmas plus more (mapping preservation, sender preservation, etc.). 90 Stdlib theorems in the manifest.

**Category 4 (Arithmetic) — MOSTLY DONE.** `safeAdd_comm`, `safeAdd_some`, `safeSub_some`, `safeSub_none_iff_lt`, etc. are all in `Automation.lean`. `ListSum.lean` (PR #378) adds occurrence-counting and sum conservation lemmas.

**Category 7 (Finite Set) — PARTIALLY DONE.** `FiniteSet` has `insert`, `sum`, `insert_of_not_mem`, `mem_elements_insert`. PR #380 removed unused set operations. `ListSum.lean` provides the sum-over-list-with-update patterns.

### Not Yet Implemented
- **Category 2 (Control Flow)** — `if_true_branch`/`if_false_branch` are trivial (Lean's `if` reduces by `rfl`). Loop invariants remain relevant if loops are added.
- **Category 3 (Authorization)** — Not implemented as generic automation. Each contract proves its own owner checks inline.
- **Category 5 (Events)** — No event automation. Events are handled by `SpecInterpreter` but no `@[simp]` lemmas.
- **Category 6 (Composition)** — `bind_assoc` is Lean's monad law. `seq_preserves_property` not implemented.
- **Custom Tactics** — Not implemented. `simp` with `@[simp]` lemmas covers most patterns.

### Recommendation
This issue should either be:
1. **Rewritten** to focus on the remaining gaps (event lemmas, composition lemmas, custom tactics), or
2. **Closed** and replaced with targeted issues for specific missing automation
